US07238716B2
A mixture of 3-methyl-1-(2-pyridyl)-1H-pyrazol-4-ylmethanol (3.00 g), thionyl chloride (2.5 mL) and toluene (50 mL) was stirred at 70° C. for 2 hrs. The reaction mixture was concentrated under reduced pressure, and saturated aqueous sodium hydrogencarbonate was added to the residue. The mixture was extracted with ethyl acetate, and the ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 4-chloromethyl-3-methyl-1-(2-pyridyl)-1H-pyrazole (3.10 g, yield 94%) as a colorless oil.

reactant | 3-methyl-1-(2-pyridyl)-1H-pyrazol-4-ylmethanol | 3.00 g | CC1=NN(C=C1CO)C1=NC=CC=C1 | C10H11N3O
reactant | thionyl chloride | 2.5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloromethyl-3-methyl-1-(2-pyridyl)-1H-pyrazole | 3.10 g, yield 94% | ClCC=1C(=NN(C1)C1=NC=CC=C1)C | C10H10ClN3
